US07601737B2
The resulting solution of 4-chloro-2-hydroxymethyl-3-methoxypyridine (−30% strength) was diluted with CH2Cl2 (48 L). DMF (65.5 g, 0.896 mol) was added in one portion and, then, thionyl chloride (11.1 kg, 93.2 mol) over 3-5 h at 15-30° C. After stirring for additional 1.5 h, about 45 L of solvents were distilled off. Toluene (20 L) was added and 20 L of solvents were again removed by distillation. Then, ethanol (1.5 L) was added to the resulting thick slurry. The solids were filtered off at 10-15° C., washed with toluene (17 L) and dried in vacuo at 30° C. to give 4-chloro-2-chloromethyl-3-methoxypyridinium chloride as an off-white solid (m. p. 132° C.); yield 15.0 kg (59%).

reactant | 4-chloro-2-hydroxymethyl-3-methoxypyridine | ClC1=C(C(=NC=C1)CO)OC | C7H8ClNO2
reactant | DMF | 0.896 mol, 65.5 g | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 93.2 mol, 11.1 kg | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 48 L | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-chloromethyl-3-methoxypyridinium chloride | [Cl-].ClC1=C(C(=[NH+]C=C1)CCl)OC | InChI=1S/C7H7Cl2NO.ClH/c1-11-7-5(9)2-3-10-6(7)4-8;/h2-3H,4H2,1H3;1H
